US05985904
30.6 g (0.13 mol) of 4-n-heptyl-phenoxy-acetonitrile, 18.1 g (0.26 mol) of hydroxylamine hydrochloride and 27.6 g (0.26 mol) of sodium carbonate are stirred at reflux temperature in 100 ml of ethanol and 200 ml of water until the reaction is complete (approximately 24 hours). The entire reaction batch is subsequently introduced into water, and the mixture is extracted using methylene chloride. 34.3 g (99.8% of theory) of 4-n-heptyl-phenoxy-acetamide oxime are obtained.

reactant | 4-n-heptyl-phenoxy-acetonitrile | 0.13 mol, 30.6 g | C(CCCCCC)C1=CC=C(OCC#N)C=C1 | C15H21NO
reactant | hydroxylamine hydrochloride | 0.26 mol, 18.1 g | Cl.NO
reactant | sodium carbonate | 0.26 mol, 27.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 200 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-n-heptyl-phenoxy-acetamide oxime | 34.3 g, 99.8% | C(CCCCCC)C1=CC=C(OCC(N)=NO)C=C1 | C15H24N2O2
